US05380834
Preparation of methyl 3,4-dideoxy-3-methyl-α-D-glycero-hex-3-enopyranos-2-ulose (Intermediate No. 20)
0.1 ml of concentrated sulfuric acid was added to 30 ml of a dry methanol solution containing 500 mg of 1,6-anhydro-3,4-dideoxy-3-methyl-β-D-glycero-hex-3-enopyranos-2-ulose (Intermediate No. 2), and the mixture was stirred at room temperature for 48 hours. Then, 30 ml of a saturated sodium hydrogencarbonate aqueous solution was added thereto, and the mixture was stirred at room temperature for 15 minutes and then concentrated under reduced pressure. Then, 200 ml of ethyl acetate was added thereto, and the mixture was washed three times with 200 ml of a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The obtained syrup crude product was purified by silica gel column chromatography (ethyl acetate: hexane=2:3) to obtain 350 mg of the desired compound (Intermediate No. 20) as a colorless liquid. The NMR analytical data of this product are as follows. 1H NMR(CDCl3,400 MHz): 1.86(3H,m); 1.95(1H,t,J=6.0Hz); 3.54(3H,s); 3.76(1H,ddd,J=11.2,6.8,6.0Hz); 3.84(1H,ddd,J=11.2,6.0,3.6Hz); 4.63(1H,m); 4.80(1H,s); 6.68(1H,m)

reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,6-anhydro-3,4-dideoxy-3-methyl-β-D-glycero-hex-3-enopyranos-2-ulose | 500 mg | CC=1C([C@H]2O[C@@H](C1)CO2)=O | C7H8O3
reactant | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | methanol | 30 ml | CO | CH4O
product | methyl 3,4-dideoxy-3-methyl-α-D-glycero-hex-3-enopyranos-2-ulose | 350 mg | C[C@@]1(O)C(C(=C[C@H](O1)CO)C)=O | C8H12O4
